Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Dicloxacillin / Amoxicillin / lisinopril / Cephalexin / 
amlodipine / Erythromycin Base / Vicodin ES / atenolol / 
spironolactone / Oxycodone / Povan for worms
 
Attending: ___.
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
colonoscopy with biopsy
 
History of Present Illness:
___ yo F with follicular lymphoma, active chemotherapy, last 
given ___, hx of breast CA, diverticulitis, DM2, who 
presents with complaint of diarrhea x 2 wks.  Was admitted from 
___ on OMED service with similar complaints, was C. diff 
negative with improvement in symptoms with anti-diarrheals, but 
since discharge, symptoms have worsened.  Now with up to >10 
BM's/day, loose, waterry, yellow, non-bloody.  Denies any 
associated abdominal pain, fevers, chills, nausea, vomiting.  
Denies LH/presyncope/CP/SOB.  Has had decreased appetite and PO 
intake.  Denies any recent travel or sick contacts.  No pets at 
home.    
.
.  
-In the ED, initial VS: AF HR 88 BP 111/42 RR 18 O2 Sat 98% 
-Exam notable for: mild LLQ TTP, Guaic negative   
-Labs notable for: pancytopenia (stable) 
-The pt underwent: CT Abd/Pelvis whic showed diverticulosis 
without diverticulitis, but also b/l periretcal stranding 
concerning for recto-vaginal or recto-cutaneous fistula.   
-The pt received:IVF  
-The pt was seen by: colorectal surgery, no surgical 
intervention at this time  
-Vitals prior to transfer:  
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, nausea, vomiting, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
Follicular lymphoma, grade I/III diagnosed in ___ by bx of an 
axillary LN with mild retroperitoneal adenopathy and 
splenomegaly. Needle bx of mildly enlarged submandibular LN ___ 
again showed low grade lymphoma. Dev'd extensive preauricular, 
cervical and supraclavicular adenopathy, splenomegaly ___. Rx'd 
8 cycles Rit/CVP ___ held last 2 cycles 
due to paresthesias . 
Transient neutropenia assoc with diverticulitis ___ ? from 
Rituxan. Given 2nd dose maintenance Rituxan ___. Developed 
transient neutropenia 4 wks later, responded quickly to 
neupogen. 
___: Maintenance Rituxan 
___- surveillance CT scans showed increase in 
abdominal/pelvic/RP LAD, as pt was asymptomatic at the time, 
decision made to monitor closely.
___- pt c/o increasing fatigue, LLE edema, abdominal 
discomfort/bloating- decision made to begin treatment with 
Rituxan/Bendamustine
___- Cycle 2 ___
___- Cycle 3 ___
.
.
PAST MEDICAL HISTORY:
- Breast cancer diagnosed ___. S/p total mastectomy with daily 
arimidex
- DM
- HLD
- HTN
- Asthma
- Diverticulitis
- s/p hernia repair x 2
 
Social History:
___
Family History:
Sister with breast cancer, brother with pancreatic cancer, 
nephew with NHL, father with DM and mother with heart disease.
Denies family hx of inflammatory bowel disease
 
Physical Exam:
VS: 98.1 142/68 90 18 98%RA
GENERAL: Well-appearing in NAD, comfortable, but anxious.  
HEENT: sclerae anicteric, dry MM, OP clear.  
NECK: Supple,   
HEART: RRR, no MRG, nl S1-S2.  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
ABDOMEN: Soft/ND, no rebound/guarding, but some tenderness on 
deep palpation of LLQ  
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.  
SKIN: No rashes or lesions.    
NEURO: Awake, A&Ox3, 

 
Pertinent Results:
___ 06:25PM BLOOD WBC-2.3* RBC-2.84* Hgb-8.5* Hct-24.8* 
MCV-87 MCH-30.0 MCHC-34.3 RDW-19.8* Plt ___
___ 07:47AM BLOOD WBC-1.8* RBC-2.91* Hgb-8.8* Hct-26.0* 
MCV-89 MCH-30.4 MCHC-34.0 RDW-19.6* Plt ___
___ 06:25PM BLOOD Neuts-57.6 Bands-0 ___ Monos-7.0 
Eos-2.2 Baso-0.9
___ 08:00AM BLOOD ___ ___
___ 06:25PM BLOOD Glucose-147* UreaN-18 Creat-0.9 Na-141 
K-3.3 Cl-104 HCO3-26 AnGap-14
___ 07:47AM BLOOD Glucose-174* UreaN-9 Creat-0.9 Na-141 
K-3.9 Cl-108 HCO3-26 AnGap-11
___ 06:25PM BLOOD ALT-24 AST-32 AlkPhos-95 TotBili-0.6
___ 08:00AM BLOOD Calcium-9.0 Phos-3.1 Mg-1.6
___ 06:25PM BLOOD Lipase-32
___ 07:25AM BLOOD tTG-IgA-0
___ 09:30PM URINE Color-Yellow Appear-Clear Sp ___
___ 09:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-TR
___ 09:30PM URINE RBC-0 WBC-3 Bacteri-FEW Yeast-NONE Epi-0
___ 09:30PM URINE Mucous-RARE
.
stool studies:
stool cultures negative
ova and parasites negative x 2 
C.diff negative
O+P #3 is still pending
AFB stain pending
.
CT Abdomen/Pelvis (___):
1. Diverticulosis without evidence of diverticulitis. 
2. Perianal linear soft tissue stranding as described above, 
raising the question of perianal fistula; correlate with 
rectal/pelvic exam. 
.
colonoscopy (___):
-Erythema, congestion and friability in the sigmoid colon 
(biopsy)
-Ulcers in the sigmoid colon (biopsy taken)
-Otherwise normal colonoscopy to 40cm from the anal verge
.
Sigmoid Colon Biopsy (___):
1.  Acute colitis with diffuse cryptitis/crypt abscesses and 
associated focal crypt atrophy. No viral inclusions or 
microorganisms seen on H&E-stained sections.
2.  Immunostain for cytomegalovirus and special stains (GMS and 
Gram) for microorganisms are negative with satisfactory 
controls.
.
 
Brief Hospital Course:
Briefly, the patient is a ___ yo female with a history of active 
follicular lymphoma, receiving chemotherapy, who has had 
persistent diarrhea for the past 3 weeks, with 1 recent 
admission approximately 1 week prior for similar symptoms with 
no improvement.  
.
Diarrhea:  The patient was admitted for further work-up and 
evaluation of her diarrhea.  She had a CT scan done in the ER 
that showed only diverticulosis, as well as a question of some 
perirectal fat stranding concerning for possible perirectal 
fistula.  Given these findings, the patient was seen by the 
Colorectal Surgical Consult service in the ER, but they did not 
feel that there was any evidence of fistula or any need for 
surgical intervention, and recommended only that the patient be 
worked-up for her diarrhea.  After admission, the patient was 
seen by the GI service, and they felt that given the timing of 
her diarrhea, that it was most likely to be a side effect of her 
recent chemotherapeutic agent, bendamustine, which has a very 
high prevalence of diarrhea as a side effect.  However, 
infectious and inflammatory etiologies were also excluded with 
culture, as well as having the patient undergo a colonoscopy 
with biopsy.  All the culture data has thus far returned 
negative for infectious causes.  The colonoscopy did show 
non-specific inflammation in the sigmoid colon, as well as an 
ulcer in the sigmoid colon, which biopsy showed acute 
self-limited colitis, without any evidence of inclusion bodies 
or microorganisms, and CMV stain was negative as well.  
Following the colonoscopy, the patient was given anti-diarrheal 
agents and supplemental IVF, and her symptoms improved 
significantly.  On discharge, her diarrhea had resolved 
completely.  Of note, during the admission, an ___ Oncologist 
did see her daily, and was made aware of the likely diagnosis of 
chemotherapy-associated diarrhea.  As such, he will discuss this 
with the patient's outpatient oncologist for the need for 
possible adjustment to the patient chemotherapy regimen.  
.
Transitional Issues:
1.  Follow-up with her outpatient Oncologist to determine what 
chemotherapy adjustments need to be made, given her likely 
serious diarrhea from her prior chemotherapy agent.

 
Medications on Admission:
per last DC summary (___)
1. anastrozole 1 mg Tablet Sig: One (1) Tablet PO once a day.  
2. simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. glyburide 5 mg Tablet Sig: Two (2) Tablet PO twice a day.  
4. lansoprazole 30 mg Capsule, Delayed Release(E.C.) Sig: One 
(1) Capsule, Delayed Release(E.C.) PO once a day.  
5. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q6H (every 6 hours) as needed for SOB.  
6. prochlorperazine maleate 10 mg Tablet Sig: One (1) Tablet PO 
every ___ hours as needed for nausea.  
7. ondansetron 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea.  
8. terazosin 2 mg Capsule Sig: One (1) Capsule PO twice a day.  
9. hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO at 
bedtime.  
10. metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
11. Flovent HFA 220 mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation twice a day.  
12. hexachlorophene 3 % Liquid Sig: One (1) application Topical 
___ times per week: as directed.  
13. loperamide 2 mg Capsule Sig: Two (2) Capsule PO QID (4 times 

a day) as needed for Diarrhea.
Disp:*30 Capsule(s)* Refills:*0*
14. magnesium oxide 250 mg Tablet Sig: One (1) Tablet PO twice a 

day for 2 days.
Disp:*4 Tablet(s)* Refills:*0*

 
Discharge Medications:
1. simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. anastrozole 1 mg Tablet Sig: One (1) Tablet PO daily ().  
3. glyburide 5 mg Tablet Sig: Two (2) Tablet PO once a day.  
4. metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
5. hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
6. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q6H (every 6 hours) as needed for 
wheeze.  
7. Flovent HFA 220 mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation twice a day.  
8. lansoprazole 30 mg Capsule, Delayed Release(E.C.) Sig: One 
(1) Capsule, Delayed Release(E.C.) PO once a day.  
9. terazosin 2 mg Capsule Sig: One (1) Capsule PO twice a day.  
10. loperamide 2 mg Capsule Sig: ___ Capsules PO four times a 
day as needed for diarrhea.  
11. ondansetron 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea.  
12. prochlorperazine maleate 10 mg Tablet Sig: One (1) Tablet PO 
every ___ hours as needed for nausea.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute colitis, likely secondary to chemotherapy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with persistent diarrhea.  You 
underwent stool studies and a colonoscopy to evaluate your 
diarrhea.  Your stool studies thus far show no evidence of 
infection.  Your colonoscopy shows acute inflammation, but no 
evidence of viral or bacterial infection.  We think that your 
diarrhea is most likely a side effect of your chemotherapy 
(bendamustine).  Your symptoms have improved during the 
hospitalization, and you've now had formed stools for 2 days.  
No adjustments were made to your outpatient medications.
You should follow-up with your doctors as ___ below.  
 
Followup Instructions:
___